US05104883
A mixture of 2-formylmethyl-1-((N-methylimino)-(4-methoxybenzylthio)methyl)-1-(pyrid-3-yl)cyclohexane (1 g, 2.52 mmol) and aluminium isopropoxide (1.03 g, 5.04 mmol) in dry isopropanol (50 ml) were heated at reflux under a McIntyre head under argon for 5 hr. After cooling, the solution was concentrated in vacuo and the residue treated with dichloromethane (50 ml) and Rochelle salt solution (20 ml). The layers were filtered and separated, and the organic layer washed with water, dried (MgSO4) and concentrated in vacuo to give a cream solid. Recrystallisation from ethyl acetate gave 2-(2-hydroxyethyl)-1-((N-methylimino)-(4-methoxybenzylthio)methyl)-1-(pyrid-3-yl)cyclohexane (0.5 g) as a white solid, m.p. 145°-146° C.;

reactant | 2-formylmethyl-1-((N-methylimino)-(4-methoxybenzylthio)methyl)-1-(pyrid-3-yl)cyclohexane | 2.52 mmol, 1 g | C(=O)CC1C(CCCC1)(C=1C=NC=CC1)C(SCC1=CC=C(C=C1)OC)=NC | C23H28N2O2S
reactant | aluminium isopropoxide | 5.04 mmol, 1.03 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-(2-hydroxyethyl)-1-((N-methylimino)-(4-methoxybenzylthio)methyl)-1-(pyrid-3-yl)cyclohexane | 0.5 g | OCCC1C(CCCC1)(C=1C=NC=CC1)C(SCC1=CC=C(C=C1)OC)=NC | C23H30N2O2S
